US04343945
5-(4-Toluamido)-3-Trichloromethyl-1,2,4-Thiadiazole
A solution of 11.0 g (0.05 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole and 8.0 g (0.05 mole) 4-toluoyl chloride in 250 ml toluene was heated at reflux for 20 hours. Unreacted amino compound was removed by cooling the reaction mixture and filtering the precipitate. Concentration of the filtrate in vacuo gave the crude product, which was purified by recrystallization from cyclohexane. Yield was 9.1 g (27%); m.p. 127° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 11.0 g | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | 4-toluoyl chloride | 0.05 mole, 8.0 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Toluamido)-3-Trichloromethyl-1,2,4-Thiadiazole | C1(=CC=C(C=C1)C(=O)NC1=NC(=NS1)C(Cl)(Cl)Cl)C | C11H8Cl3N3OS
